US07091220B2
[(5-Chloro-1H-indol-3-yl)-phenylmethyl]-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 5-chloro-1H-indole and benzylidene-dimethyl-ammonium chloride, which had been prepared in accordance with example 1.

reactant | 5-chloro-1H-indole | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | [(5-Chloro-1H-indol-3-yl)-phenylmethyl]-dimethylamine | ClC=1C=C2C(=CNC2=CC1)C(C1=CC=CC=C1)N(C)C | C17H17ClN2
